* NE5532 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING NE5534 model from Texas Instruments
* CONNECTIONS: N-INV INPUT | INV INPUT | V+ | V- | OUTPUT
.SUBCKT NE5532 1 2 3 4 5
C1 11 12 7.703E-12
C2 6 7 23.500E-12
DC 5 53 DX
DE 54 5 DX
DLP 90 91 DX
DLN 92 90 DX
DP 4 3 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA 6 0 1 2 2.827E-4
GCM 0 6 10 99 1.589E-9
IEE 10 4 DC 2.450E-4
HLIM 90 0 VLIM 1K
Q1 11 2 13 QX
Q2 12 1 14 QX
R2 6 99 100.0E3
RC1 3 11 3.537E3
RC2 3 12 3.537E3
RE1 13 10 1.769E3
RE2 14 10 1.769E3
REE 10 99 8.163E6
RO1 8 5 50
RO2 7 99 25
RP 3 4 3.000E3
VB 9 0 DC 0
VC 3 53 DC 2.100
VE 54 4 DC 2.100
VLIM 7 8 DC 0
VLP 91 0 DC 30
VLN 0 92 DC 30
.MODEL QX NPN(BF=1.333E3)
.MODEL DX D(IS=8E-16)
.ENDS NE5532

