* C:\users\neill-lambert\Documents\LTspiceXVII\schematics\Draft1.asc
XU1 NC_01 NC_02 NC_03 pot_audio
R1 NC_04 NC_05 {Rval}
.step param Rval 10 100 10
.lib pote.lib
.backanno
.end
