* C:\users\neill-lambert\Documents\LTspiceXVII\schematics\transistor_boost.asc
V1 in 0 SINE(0 .2 440)
Rp in 0 1Meg
R1 N001 N003 1.3Meg
R2 N003 0 330k
Re N004 0 820
Rc N001 N002 9.1k
Rv out 0 100k
C2 N003 in 0.1µ
C3 out N002 1µ
C1 N001 0 47µ
V2 N001 0 9v
Q1 N002 N003 N004 0 2N2222A_CUSTOM
.model NPN NPN
.model PNP PNP
.lib C:\users\neill-lambert\Documents\LTspiceXVII\lib\cmp\standard.bjt
transistor boost circuit
guitar signal
power supply
gain = Rc/Re
.tran 0 10ms 0
.model 2N2222A_CUSTOM NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=255.9 Ne=1.307
+ Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1 Cjc=7.306p
+ Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75 Tr=46.91n
+ Tf=411.1p Itf=.6 Vtf=1.7 Xtf=3 Rb=10)
.backanno
.end
